US05286721
Into the suspension of 2-cyanomethylimidazole trifluoroacetate (7 g) in a mixture of chloroform (25 ml) and ethanol (2.42 ml) was absorbed hydrogen chloride gas (2.54 g) at 0° C. The resulting mixture was allowed to stand at 0° C. for 7 days. The residue was triturated with diisopropyl ether to give ethyl 2-(imidazol-2-yl)-acetimidate dihydrochloride (6.28 g).

reactant | 2-cyanomethylimidazole trifluoroacetate | 7 g | FC(C(=O)O)(F)F.C(#N)CC=1NC=CN1
reactant | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 2.42 ml | C(C)O | C2H6O
product | ethyl 2-(imidazol-2-yl)-acetimidate dihydrochloride | 6.28 g | Cl.Cl.N1C(=NC=C1)CC(OCC)=N | InChI=1S/C7H11N3O.2ClH/c1-2-11-6(8)5-7-9-3-4-10-7;;/h3-4,8H,2,5H2,1H3,(H,9,10);2*1H
